US06194454B1
3-Cyano-4-hydroxy-5-methylnitrobenzene
To a heated (45° C.), stirred solution of 2-cyano-6-methylphenol (5 g) in glacial acetic acid (32 mL) was added a solution of fuming nitric acid (3.2 mL) in acetic acid (12 mL). After 1 h at elevated temperature (45° C.), the reaction mixture was cooled (to 0° C.), water added and partitioned between DEE/water. The organic phase was washed with water, brine, dried over sodium sulfate and concentrated in vacuo to afford a solid. Recrystallization from DEE afforded the title compound as yellow crystals (3.6 g).

reactant | 2-cyano-6-methylphenol | 5 g | C(#N)C1=C(C(=CC=C1)C)O | C8H7NO
reactant | nitric acid | 3.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 3-Cyano-4-hydroxy-5-methylnitrobenzene | 3.6 g | C(#N)C=1C=C(C=C(C1O)C)[N+](=O)[O-] | C8H6N2O3
